US07994185B2
Step E: N-(3-{5-(2-Amino-4-pyrimidinyl)-2-[4-(methylsulfonyl)-1-piperazinyl]-1,3-thiazol-4-yl}-2-fluorophenyl)-2,5-difluorobenzenesulfonamide
A solution of N-(3-{5-(2-chloro-4-pyrimidinyl)-2-[4-(methylsulfonyl)-1-piperazinyl]-1,3-thiazol-4-yl}-2-fluorophenyl)-2,5-difluorobenzenesulfonamide (0.14 g, 0.22 mmol) in NH4OH (2.5 mL, 65 mmol) was sealed in a microwave vial and irradiated at 140° C. for 12 min. LCMS analysis indicates complete conversion to product. The reaction mixture was transferred to a round bottom flask with DCM and MeOH. A precipitate formed while attempting to remove the volatiles in vacuo and it was collected by vacuum filtration. The pale yellow solid was dried in vacuo to afford the title compound (0.14 g, 100% yield). 1H NMR (400 MHz, DMSO-d6) δ ppm 10.76 (br. s., 1H), 7.84 (d, J=5.3 Hz, 1H), 7.46-7.61 (m, 3H), 7.38-7.46 (m, 1H), 7.22-7.34 (m, 2H), 6.59 (br. s., 2H), 5.64 (d, J=5.1 Hz, 1H), 3.60 (br. s., 4H), 3.26 (br. s., 4H), 2.92 (s, 3H). MS (ES+): 626 [M+H]+.

reactant | N-(3-{5-(2-chloro-4-pyrimidinyl)-2-[4-(methylsulfonyl)-1-piperazinyl]-1,3-thiazol-4-yl}-2-fluorophenyl)-2,5-difluorobenzenesulfonamide | 0.22 mmol, 0.14 g | ClC1=NC=CC(=N1)C1=C(N=C(S1)N1CCN(CC1)S(=O)(=O)C)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC(=C1)F)F)F | C24H20ClF3N6O4S3
reactant | NH4OH | 65 mmol, 2.5 mL | [NH4+].[OH-]
reactant | DCM | C(Cl)Cl | CH2Cl2
solvent | MeOH | CO | CH4O
product | N-(3-{5-(2-Amino-4-pyrimidinyl)-2-[4-(methylsulfonyl)-1-piperazinyl]-1,3-thiazol-4-yl}-2-fluorophenyl)-2,5-difluorobenzenesulfonamide | 0.14 g, 100% yield | NC1=NC=CC(=N1)C1=C(N=C(S1)N1CCN(CC1)S(=O)(=O)C)C=1C(=C(C=CC1)NS(=O)(=O)C1=C(C=CC(=C1)F)F)F | C24H22F3N7O4S3
